US07572809B2
NaH (155 mg) was added to a solution of 2-Morpholin-4-yl-ethanol (2 ml) and stirred for 1 hour. (7-Fluoro-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine (100 mg) was added to the mixture, and the mixture was heated at 180° C. for 1 hour under microwave irradiation. The reaction mixture was acidified to PH=7 with acetic acid and purified by preparative LC-MS to give [1-Isopropoxy-6-methoxy-7-(2-morpholin-4-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine (28 mg). LC-MS: m/e 442(MH+).

reactant | NaH | 155 mg | [H-].[Na+]
reactant | 2-Morpholin-4-yl-ethanol | 2 ml | N1(CCOCC1)CCO | C6H13NO2
reactant | (7-Fluoro-1-isopropoxy-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | 100 mg | FC1=C(C=C2C=C(N=C(C2=C1)OC(C)C)NC1=NNC(=C1)C)OC | C17H19FN4O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [1-Isopropoxy-6-methoxy-7-(2-morpholin-4-yl-ethoxy)-isoquinolin-3-yl]-(5-methyl-1H-pyrazol-3-yl)-amine | 28 mg | C(C)(C)OC1=NC(=CC2=CC(=C(C=C12)OCCN1CCOCC1)OC)NC1=NNC(=C1)C | C23H31N5O4
